US07897631B2
tert-butyl 2-amino-4-(hept-6-ynyl)-1H-imidazole-1-carboxylate (0.104 g, 0.375 mmol) was reacted with N-(2-azidoethyl)-4-bromo-1H-pyrrole-2-carboxamide (0.131 g, 0.375 mmol) following the general click procedure to give tert-butyl 2-amino-4-(5-(1-(2-(4-bromo-1H-pyrrole-2-carboxamido)ethyl)-1H-1,2,3-triazol-4-yl)pentyl)-1H-imidazole-1-carboxylate 1H NMR (300 MHz, CDCl3) δ 11.44 (s, 1H), δ 7.84 (s, 1H), δ 7.28 (s, 1H), δ 6.84 (s, 1H), δ 6.74 (s, 1H), δ 6.46 (s, 1H), δ 4.89 (s, 2H), 3.82 (s, 2H), δ 2.57 (s, 2H), δ 2.28 (s, 2H), δ 1.55 (m, 13H), δ 1.29 (m, 2H) ppm; 13C NMR (75 MHz, CDCl3) δ 186.8, 161.4, 150.7, 149.3, 148.2, 137.6, 126.3, 122.5, 122.1, 113.1, 100.4, 96.9, 85.4, 49.6, 29.1, 28.7, 28.2, 27.7, 25.5 ppm; HRMS (ESI) calcd for C22H31BrN8O3 (M+) 534.1703. found 534.1705, which was subsequently deprotected to give N-(2-(4-(5-(2-amino-1H-imidazol-4-yl)pentyl)-1H-1,2,3-triazol-1-yl)ethyl)-4-bromo-1H-pyrrole-2-carboxamide hydrochloride (0.129 g, 73% yield). 1H NMR (400 MHz, CD3OD) δ 8.42 (s, 1H), δ 6.93 (s, 1H), δ 6.82 (s, 1H), δ 6.47 (s, 1H), δ 4.76 (s, 2H), δ 3.87 (s, 2H), δ 2.79 (s, 2H), δ 2.45 (s, 2H), δ 1.69 (s, 2H), δ 1.60 (s, 2H), δ 1.37 (s, 2H) ppm; 13C NMR (100 MHz, CD3OD) δ 161.4, 159.5, 159.1, 147.3, 147.2, 127.6, 125.8, 122.3, 122.1, 112.8, 108.6, 108.5, 96.4, 51.9, 38.9, 28.0, 27.9, 27.6, 24.1, 23.6 ppm; HRMS (ESI) calcd for C17H23BrN8O (M+) 434.1178. found 434.1171.

reactant | tert-butyl 2-amino-4-(hept-6-ynyl)-1H-imidazole-1-carboxylate | 0.375 mmol, 0.104 g | NC=1N(C=C(N1)CCCCCC#C)C(=O)OC(C)(C)C | C15H23N3O2
reactant | N-(2-azidoethyl)-4-bromo-1H-pyrrole-2-carboxamide | 0.375 mmol, 0.131 g | N(=[N+]=[N-])CCNC(=O)C=1NC=C(C1)Br | C7H8BrN5O
product | tert-butyl 2-amino-4-(5-(1-(2-(4-bromo-1H-pyrrole-2-carboxamido)ethyl)-1H-1,2,3-triazol-4-yl)pentyl)-1H-imidazole-1-carboxylate | NC=1N(C=C(N1)CCCCCC=1N=NN(C1)CCNC(=O)C=1NC=C(C1)Br)C(=O)OC(C)(C)C | C22H31BrN8O3
